US04996230
A. Preparation of 4-(3-methoxyphenoxy)-1,3-benzenedicarboxylic acid diethyl ester
Following the general procedure of Example 1A, 3.49 g of 4-bromo-1,3-benzenedicarboxylic acid diethyl ester and 1.43 g of 3-methoxyphenol were allowed to react in the presence of powdered copper metal to provide 1.66 g of the desired subtitle intermediate as an oil.

reactant | 4-bromo-1,3-benzenedicarboxylic acid diethyl ester | 3.49 g | C(C)OC(=O)C1=CC(=C(C=C1)Br)C(=O)OCC | C12H13BrO4
reactant | 3-methoxyphenol | 1.43 g | COC=1C=C(C=CC1)O | C7H8O2
catalyst | copper | [Cu] | Cu
product | 4-(3-methoxyphenoxy)-1,3-benzenedicarboxylic acid diethyl ester | 1.66 g | C(C)OC(=O)C1=CC(=C(C=C1)OC1=CC(=CC=C1)OC)C(=O)OCC | C19H20O6
